US06645970B2
a) 8-Bromo-6-acetyltetralin
To AlCl3 (9.9 g, 75 mmol) is added dropwise 6-acetyltetralin (5.25 g, 30 mmol) under mechanical stirring at RT. After 20 minutes at 70° C. the reaction is cooled to RT and treated in small portions with Br2 (5.76 g [=1.86 ml], 36 mmol) over a period of 30 minutes. After that the mixture is stirred for further 60 minutes at 85° C. After cooling down to RT and addition of ice-water (450 ml) the compound is extracted with methylene chloride and purified on silica gel using a mixture of cyclo-hexane/ethyl acetate 2/1 to 1/1 obtaining the product as a pale yellow solid.

reactant | AlCl3 | 75 mmol, 9.9 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | 6-acetyltetralin | 30 mmol, 5.25 g | C(C)(=O)C=1C=C2CCCCC2=CC1 | C12H14O
reactant | Br2 | 36 mmol, 1.86 ml, 5.76 g | BrBr | Br2
product | 8-Bromo-6-acetyltetralin | BrC=1C=C(C=C2CCCCC12)C(C)=O | C12H13BrO
